US07589095B2
N-(3-Bromo-5-trifluoromethyl-phenyl)-methanesulfonamide (37 mg), 4-(3-benzyloxy-propyl)-6-trimethylstannanyl-pyrimidine-2-carbonitrile (40 mg) and dichlorobis(triphenylphosphine)palladium(II) (7 mg) in DMF (1 mL) were heated in a microwave to 180° C. for five minutes. The mixture was diluted with ethyl acetate (10 mL) and filtered through celite. The filtrate was washed with water (10 mL) and saturated sodium chloride solution (10 mL). Organics were separated, dried over sodium sulphate, filtered and solvent was removed under reduced pressure to yield crude product. Purification by HPLC afforded 4-(3-benzyloxy-propyl)-6-(3-methanesulfonylamino-5-trifluoromethylphenyl)-pyrimidine-2-carbonitrile.

reactant | N-(3-Bromo-5-trifluoromethyl-phenyl)-methanesulfonamide | 37 mg | BrC=1C=C(C=C(C1)C(F)(F)F)NS(=O)(=O)C | C8H7BrF3NO2S
reactant | 4-(3-benzyloxy-propyl)-6-trimethylstannanyl-pyrimidine-2-carbonitrile | 40 mg | C(C1=CC=CC=C1)OCCCC1=NC(=NC(=C1)[Sn](C)(C)C)C#N
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
catalyst | dichlorobis(triphenylphosphine)palladium(II) | 7 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 4-(3-benzyloxy-propyl)-6-(3-methanesulfonylamino-5-trifluoromethylphenyl)-pyrimidine-2-carbonitrile | C(C1=CC=CC=C1)OCCCC1=NC(=NC(=C1)C1=CC(=CC(=C1)C(F)(F)F)NS(=O)(=O)C)C#N | C23H21F3N4O3S
